US05580986
2. 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile
22.5 g (0.13 mol) 5-Difluoromethoxy-3-hydrazino-1-methylpyrazole was dissolved in 310 ml ethanol and treated with 5.4 g (0.13 mol) ethoxymethylenemalononitrile. After the mixture had been heated under reflux for one hour it was cooled. The precipitate was suction filtered and washed with a small amount of ethanol.

reactant | 5-Difluoromethoxy-3-hydrazino-1-methylpyrazole | 0.13 mol, 22.5 g | FC(OC1=CC(=NN1C)NN)F | C5H8F2N4O
reactant | ethoxymethylenemalononitrile | 0.13 mol, 5.4 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 310 ml | C(C)O | C2H6O
product | 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile | NC1=C(C=NN1C1=NN(C(=C1)OC(F)F)C)C#N | C9H8F2N6O
